* A quad op amp spice model
* file name: LMX24_LM2902-quad.lib
*						1   2    3    4   5    6     7    8   9    10   11   12  13   14
.subckt LMX24_LM2902a 1OUT 1IN- 1IN+ VCC 2IN+ 2IN- 2OUT 3OUT 3IN- 3IN+ VEE 4IN+ 4IN- 4OUT 
.include LMX24_LM2902.lib
XU1A 1IN+ 1IN- VCC VEE 1OUT LMX24_LM2902
XU1B 2IN+ 2IN- VCC VEE 2OUT LMX24_LM2902
XU1C 3IN+ 3IN- VCC VEE 3OUT LMX24_LM2902
XU1D 4IN+ 4IN- VCC VEE 4OUT LMX24_LM2902
.ends